US06936617B2
Synthesis of 1-Ethoxymethyl-2-tributylstannanyl-1H-imidazole
1.6 M n-BuLi (12.0 mL, 19.2 mmol) is slowly added to a solution of 1-ethoxymethyl-1H-imidazole [available via the procedure outlined in Tang, C. C.; Davalian, D.; Huang, P.; Breslow, R. J. Am. Chem. Soc. 1978, 100, 3918] (2.20 g, 17.4 mmol) in THF (30 mL) at −78° C. under N2. The reaction mixture is stirred at −78° C. for 20 minutes whereupon tributyl tin chloride (5.7 mL, 20.9 mmol) is added slowly. The reaction mixture is stirred at −78° C. for 10 minutes and then warmed to room temperature. After stirring at room temperature for 1.5 hours, the reaction mixture is concentrated in vacuo. The residue is triturated with hexanes and filtered, and the filtrate is concentrated in vacuo. The residue is again triturated with hexanes and filtered, and the filtrate concentrated in vacuo. The 1H NMR of the resulting oil indicates a 2:1 mixture of 1-ethoxymethyl-2-tributylstannanyl-1H-imidazole: 1-ethoxymethyl-1H-imidazole. This material is used in the next reaction (Example 5) without further purification. Selected 1H NMR resonances (400 MHz, CDCl3) δ 7.21 (s, 1H), 7.14 (s, 1H), 5.24 (s, 2H) ppm.

reactant | n-BuLi | 19.2 mmol, 1.6 M, 12.0 mL | [Li]CCCC
reactant | 1-ethoxymethyl-1H-imidazole | C(C)OCN1C=NC=C1 | C6H10N2O
reactant | tributyl tin chloride | 20.9 mmol, 5.7 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Ethoxymethyl-2-tributylstannanyl-1H-imidazole | C(C)OCN1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H9N2O.3C4H9.Sn/c1-2-9-6-8-4-3-7-5-8;3*1-3-4-2;/h3-4H,2,6H2,1H3;3*1,3-4H2,2H3;
